US06399599B1
Example 3: (R)-2-[(3S,5R)-5Methyl-2-oxo-3-phenyl-4-(quinolin-6-yl-acetyl)-[1,4]diazepan-1-yl]-3-(naphthalen-1-yl)-propionamide
The title compound is prepared by following the procedure of Example 1 but starting from (R)-2-[(3S,5R)-5-methyl-2-oxo-3-phenyl-[1,4]-diazepan-1-yl]-3-(naphthalen-1-yl)-propionamide and using Boc-α-D-Nal—OH in step a) instead of N-Boc-β-L-Nal—OH and Boc-L-Phg—OH in step d) instead of Boc-Leu—OH. MH+: 571 (ES+) αD20+187.6 (c=0.15 95% AcOH)

reactant | (R)-2-[(3S,5R)-5-methyl-2-oxo-3-phenyl-[1,4]-diazepan-1-yl]-3-(naphthalen-1-yl)-propionamide | C[C@H]1N[C@H](C(N(CC1)[C@@H](C(=O)N)CC1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C25H27N3O2
reactant | Boc-L-Phg—OH | N([C@@H](C1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C13H17NO4
reactant | Boc-Leu—OH | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
solvent | AcOH | CC(=O)O | C2H4O2
product | (R)-2-[(3S,5R)-5Methyl-2-oxo-3-phenyl-4-(quinolin-6-yl-acetyl)-[1,4]diazepan-1-yl]-3-(naphthalen-1-yl)-propionamide | C[C@H]1N([C@H](C(N(CC1)[C@@H](C(=O)N)CC1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1)C(CC=1C=C2C=CC=NC2=CC1)=O | C36H34N4O3
